US07214673B2
(S)-10-(3-Benzyl-piperazin-1-yl-2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene
By a similar method to Example 460, using 2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine(0.703 g, 3.0 mmol) and (S)-2-benzyl-piperazine (0.538 g, 3.0 mmol) give 0.410 g of the title compound as a yellow solid: mp 250–252° C.; mass spectrum (ion spray): m/z=390 (M+1); Analysis for C22H23N5S(0.6 H2O): calcd: C, 66.01; H, 6.09; N, 17.49; found: C, 65.94; H, 5.66; N, 17.8 1.

reactant | 2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine | 3.0 mmol, 0.703 g | CC1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N | C11H10N4S
reactant | (S)-2-benzyl-piperazine | 3.0 mmol, 0.538 g | C(C1=CC=CC=C1)[C@@H]1NCCNC1 | C11H16N2
product | 3-Benzyl-piperazin-1-yl-2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.410 g | C(C1=CC=CC=C1)C1CN(CCN1)N1C=2SC(=NC2C=NC2=C1C=CC=C2)C | C22H23N5S
